US06593335B1
3-amino-4.4-dimethyl-2-cyclohexen-1-one
3-Methoxy-4,4-dimethyl-2-cyclohexen-I -one in condensed anhydrous ammonia (50 mL) was heated at 100 ° C. (850 psi) for 34 hours. Ammonia was removed by evaporation, the residue dissolved in ethyl acetate (5 mL) and filtered through Florisil to provide 1,14 g of the title compound as a pale tan oil.

reactant | 3-Methoxy-4,4-dimethyl-2-cyclohexen-I -one | COC1=CC(CCC1(C)C)=O | C9H14O2
reactant | ammonia | 50 mL | N | H3N
product | 3-amino-4.4-dimethyl-2-cyclohexen-1-one | 1,14 g | NC1=CC(CCC1(C)C)=O | C8H13NO
